US08349880B2
Methyl 2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (1.50 g, 3.54 mmol, from preparation B) and 6-chloro-2-(4-(2,2,2-trifluoroethoxy)phenyl)hexanoic acid (1.21 g, 3.72 mmol, from preparation AW) were coupled [N-methylmorpholine (1.95 mL, 17.7 mmol) was substituted for N,N-diisopropylethylamine] and then reacted with hydrazine (0.560 mL, 17.7 mmol) using a procedure analogous to Step A of Example 13. After an aqueous workup, 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine was obtained as a brown foamy solid. The crude product was used in the next step without purification. LC-MS (M+H)+ 568.5.

reactant | Methyl 2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 3.54 mmol, 1.50 g | I.FC1=C(C=C(C(=C1)N1N=C(N=C1)C)OC)NC(=N)SC
reactant | 6-chloro-2-(4-(2,2,2-trifluoroethoxy)phenyl)hexanoic acid | 3.72 mmol, 1.21 g | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OCC(F)(F)F | C14H16ClF3O3
reactant | N-methylmorpholine | 17.7 mmol, 1.95 mL | CN1CCOCC1 | C5H11NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrazine | 17.7 mmol, 0.560 mL | NN | H4N2
product | 5-(5-chloro-1-(4-(2,2,2-trifluoroethoxy)phenyl)pentyl)-N-(2-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | ClCCCCC(C1=CC=C(C=C1)OCC(F)(F)F)C1=NC(=NN1)NC1=C(C=C(C(=C1)OC)N1N=C(N=C1)C)F | C25H26ClF4N7O2
